US04734444
4. Preparation of N-p-toluenesulfonyl-N-methylaminodiphenylsulfonium tetrafluoroborate (IV)
10.65 g (0.03 mol) of N-p-toluenesulfonyldiphenylsulfilimine were dissolved in 40 ml of dry methylene chloride, and 4.44 g (0.03 mol) of trimethyloxonium tetrafluoroborate were added. After stirring overnight and concentrating, the reaction product formed a crystalline precipitate. Drying under reduced pressure left 11.45 g of the salt (IV). Analysis and properties are indicated in Table 1.

reactant | N-p-toluenesulfonyldiphenylsulfilimine | 0.03 mol, 10.65 g | C1(=CC=C(C=C1)S(=O)(=O)N=S(C1=CC=CC=C1)C1=CC=CC=C1)C | C19H17NO2S2
reactant | trimethyloxonium tetrafluoroborate | 0.03 mol, 4.44 g | F[B-](F)(F)F.C[O+](C)C
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-p-toluenesulfonyl-N-methylaminodiphenylsulfonium tetrafluoroborate | F[B-](F)(F)F.C1(=CC=C(C=C1)S(=O)(=O)N(C)[S+](C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C20H20NO2S2.BF4/c1-17-13-15-20(16-14-17)25(22,23)21(2)24(18-9-5-3-6-10-18)19-11-7-4-8-12-19;2-1(3,4)5/h3-16H,1-2H3;/q+1;-1
